US04183879
Preparation of Tetrabutyl para-menthane-2,6-diyldiphosponate
Dibutyl hydrogen phosphite and α-pinene were reacted in substantially the same manner as reported in Example 3 to make the titled compound (69% theory yield). The NMR spectrum was in agreement with the expected structure.

reactant | Dibutyl hydrogen phosphite | P(OCCCC)(OCCCC)O | C8H19O3P
reactant | α-pinene | CC1=CCC2CC1C2(C)C | C10H16
product | Tetrabutyl para-menthane-2,6-diyldiphosponate | 69% | C1(C(CC(CC1P(OCCCC)(OCCCC)=O)C(C)C)P(OCCCC)(OCCCC)=O)C | C26H54O6P2
